US04701459
Prepared as described by D. E. O'Brien et al, J. Het. Chem., 7, 102 (1970) as follows. A mixture of 5-chloro-2-nitrobenzaldehyde (18.3 g, 0.1 mole), ethylene glycol (7.0 g, 0.11 mole) p-toluenesulfonic acid (0.5 g) and benzene (850 mL) was stirred and refluxed with continuous removal of water via a Dean and Stark trap for 24 hours. The solvent was removed, the residue dissolved in dichloromethane and filtered through a plug of silica gel (6" deep). Evaporation of the solvent afforded 2-(5-chloro-2-nitrophenyl)-1,3-dioxolane (21.8 g, 97%) as an oil.

reactant | 5-chloro-2-nitrobenzaldehyde | 0.1 mole, 18.3 g | ClC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4ClNO3
reactant | ethylene glycol | 0.11 mole, 7.0 g | C(CO)O | C2H6O2
reactant | benzene | 850 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-(5-chloro-2-nitrophenyl)-1,3-dioxolane | 21.8 g, 97% | ClC=1C=CC(=C(C1)C1OCCO1)[N+](=O)[O-] | C9H8ClNO4
